US08648066B2
1-{6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-1H-imidazo[4,5-b]pyridin-2-yl}-N-methylmethanamine.
Prepared according to the method of example 5 by using phenylmethyl{[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl}methylcarbamate (reagent preparation 19) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.62 (br, 1H), 8.35 (s, 1H), 8.10 (s, 1H), 7.62 (br, 1H), 7.53 (d, 1H), 7.09 (d, 1H), 4.74 (s, 2H), 4.38 (m, 2H), 4.22 (s, 2H), 3.97 (m, 2H), 2.77 (t, 2H), 2.59 (s, 3H), 2.48 (s, 2H), 1.68 (t, 2H), 0.88 (s, 6H); MS (EI) for C27H31N7O: 470 (MH+).

reactant | phenylmethyl{[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl}methylcarbamate | C1(=CC=CC=C1)COC(N(C)CC1=NC=2C(=NC=C(C2)Br)N1COCC[Si](C)(C)C)=O | C22H29BrN4O3Si
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 1-{6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-1H-imidazo[4,5-b]pyridin-2-yl}-N-methylmethanamine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)CNC)C | C27H31N7O
